US08258130B2
To a solution of 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (0.152 g, 0.75 mmol), in dry DCM (3 mL) and DMF (0.9 μL) in a dry flask under N2 is added oxalyl chloride (74 μL, 0.86 mmol). The reaction mixture is stirred at rt for 1 h. The solvent is evaporated and toluene is added and evaporated three times. The residue is dissolved in dry DCM (3 mL), and a solution of 4-amino-6-methyl-4,5-dihydro-2H-1,2,4-triazin-3-one (0.77 g, 0.6 mmol) in DCM (5 mL) is added followed by the addition of DIPEA (0.14 mL, 0.79 mmol). The mixture is stirred at rt overnight, and then concentrated in vacuo. The residue is diluted with water and adjusted to pH ˜8.5 with saturated aqueous NaHCO3 solution. The resulting precipitate is filtered to afford 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (6-methyl-3-oxo-2,5-dihydro-3H-1,2,4-triazine-4-yl)amide (0.043 g, 23%). MS: 312 (M+H); 1H NMR (300 MHz, DMSO-d6) δ 11.11 (s, 1H), 9.95 (s, 1H), 9.31 (s, 2H), 8.78 (d, 1H), 8.45 (d, 1H), 8.01 (tr, 1H), 7.58 (dd, 1H), 4.22 (2, 2H), 1.91 (s, 3H).

reactant | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 0.75 mmol, 0.152 g | N1=C(C=CC=C1)C1=NC=C(C=N1)C(=O)O | C10H7N3O2
reactant | oxalyl chloride | 0.86 mmol, 74 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-amino-6-methyl-4,5-dihydro-2H-1,2,4-triazin-3-one | 0.6 mmol, 0.77 g | NN1C(NN=C(C1)C)=O | C4H8N4O
reactant | DIPEA | 0.79 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.9 μL | CN(C)C=O | C3H7NO
product | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (6-methyl-3-oxo-2,5-dihydro-3H-1,2,4-triazine-4-yl)amide | 0.043 g, 23% | CC=1CN(C(NN1)=O)NC(=O)C=1C=NC(=NC1)C1=NC=CC=C1 | C14H13N7O2
